US05578636
Synthesis of 5-(4-isovaleryloxy-1-butynyl)-2,2'-bithiophene
5-(4-Hydroxy-1-butynyl)-2,2'-bithiophene (1 g) was dissolved in pyridine (10 ml). Isovaleroyl chloride (1 ml) was added at room temperature, stirred for few minutes and kept overnight. The reaction mixture was treated as in example 21. Light yellowish oily product (1.06 g) was then obtained.

reactant | 5-(4-Hydroxy-1-butynyl)-2,2'-bithiophene | 1 g | OCCC#CC1=CC=C(S1)C=1SC=CC1 | C12H10OS2
reactant | Isovaleroyl chloride | 1 ml | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-isovaleryloxy-1-butynyl)-2,2'-bithiophene | 1.06 g | C(CC(C)C)(=O)OCCC#CC1=CC=C(S1)C=1SC=CC1 | C17H18O2S2
